US04757061
4-azidoandrost-4-en-3,17-dione [I, R=N3, R1 =R2 =H, (x)=(y)=single bond]
To a stirred solution of 1.0 g of 4-methanesulfonyloxyandrost-4-en-3,17-dione in 5 ml of dimethylformamide are added 220 mg of powdered sodium azide dissolved in 3 ml of water. The resulting mixture is heated at 60° C. for 1 hour, cooled, poured into 250 ml of cold water and extracted with ethyl acetate (4×50 ml). The combined extracts are washed with saturated NaCl aqueous solution, dried over Na2SO4 and evaporated in vacuo to yield a residue which is purified by flash column chromatography on neutral Al2O3. Elution with n-hexane:diethyl ether 1:1 gives 0.52 g of the title compound, m.p. 142°-143° C.

reactant | 4-methanesulfonyloxyandrost-4-en-3,17-dione | 1.0 g | CS(=O)(=O)OC1=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C20H28O5S
reactant | sodium azide | 220 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 3 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | 4-azidoandrost-4-en-3,17-dione | 0.52 g | N(=[N+]=[N-])C1=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O | C19H25N3O2
